US06603005B2
Ethyl allyl-1-(tert-butyloxycarbonyl)piperidine-4-carboxylate.
70 cm3 of a solution of butyllithium in hexane (2.5M concentration) were added, with stirring and under an inert atmosphere, to 150 cm3 of tetrahydrofuran cooled to a temperature in the region of −70° C., followed by addition of 50 cm3 of tetrahydrofuran and 23 cm3 of diisopropylamine predissolved in 300 cm3 of tetrahydrofuran. After a further addition of 50 cm3 of tetrahydrofuran, the mixture was stirred for 15 minutes at about −70° C., followed by addition of 45.15 g of ethyl de 1-(tert-butyloxycarbonyl)isonipecotate predissolved in 400 cm3 of tetrahydrofuran, and finally 50 cm3 of this same solvent. After stirring the mixture for 1 hour at a temperature in the region of −70° C., 16.7 cm3 of allyl bromide predissolved in 150 cm3 of tetrahydrofuran were added and the mixture was then warmed to about 20° C. and stirred for 17 hours. The mixture was poured into 200 cm3 of saturated aqueous ammonium chloride solution and then extracted with about 2 liters of ethyl acetate.

reactant | butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 23 cm3 | C(C)(C)NC(C)C | C6H15N
reactant | 1-(tert-butyloxycarbonyl)isonipecotate | C(C)(C)(C)OC(=O)N1CCC(C(=O)[O-])CC1
reactant | allyl bromide | 16.7 cm3 | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 200 cm3 | [Cl-].[NH4+]
solvent | hexane | 2.5M | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 cm3 | O1CCCC1 | C4H8O
product | Ethyl allyl-1-(tert-butyloxycarbonyl)piperidine-4-carboxylate | C(C=C)C1N(CCC(C1)C(=O)OCC)C(=O)OC(C)(C)C | C16H27NO4
